US06734302B2
Hydrogen chloride gas was passed through a solution of 2,4-diethoxybenzonitrile (1.86 g, 9.7 mmol) in absolute ethanol (20 mL) in a pressure tube for 1 h at −10° C. The tube was sealed and stirred at room temperature for 12 d. Evaporation of the solvents and trituration of the residue in diethyl ether gave ethyl 2,4-diethoxy-benzimidate hydrochloride (2.53 g, 95%).

reactant | Hydrogen chloride | Cl | ClH
reactant | 2,4-diethoxybenzonitrile | 9.7 mmol, 1.86 g | C(C)OC1=C(C#N)C=CC(=C1)OCC | C11H13NO2
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | ethyl 2,4-diethoxy-benzimidate hydrochloride | 2.53 g, 95% | Cl.C(C)OC1=C(C(OCC)=N)C=CC(=C1)OCC | InChI=1S/C13H19NO3.ClH/c1-4-15-10-7-8-11(13(14)17-6-3)12(9-10)16-5-2;/h7-9,14H,4-6H2,1-3H3;1H
